US03950393
3.8 gm of 2-amino-N-benzyl-5-carbethoxy-N-ethyl-benzylamine were hydrogenated in a mixture of 50 ml of methanol and 1 ml of concentrated hydrochloric acid at room temperature and at a hydrogen pressure of 5 atmospheres in the presence of palladized charcoal. Then, the catalyst was filtered off, and the filtrate was evaporated to dryness in vacuo. The residue was recrystallized from ethanol by addition of ether, yielding 2-amino-5-carbethoxy-N-ethyl-benzylamine hydrochloride, m.p. 173°-176°C (decomp.).

reactant | 2-amino-N-benzyl-5-carbethoxy-N-ethyl-benzylamine | 3.8 gm | NC1=C(CN(CC)CC2=CC=CC=C2)C=C(C=C1)C(=O)OCC | C19H24N2O2
reactant | hydrogen | [H][H] | H2
reactant | charcoal | C | CH4
reactant | hydrochloric acid | 1 ml | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
product | 2-amino-5-carbethoxy-N-ethyl-benzylamine hydrochloride | Cl.NC1=C(CNCC)C=C(C=C1)C(=O)OCC | InChI=1S/C12H18N2O2.ClH/c1-3-14-8-10-7-9(5-6-11(10)13)12(15)16-4-2;/h5-7,14H,3-4,8,13H2,1-2H3;1H
